US06734191B2
To a solution of 4-pyridin-2-yl-benzaldehyde (1.036 g, 5.65 mmol) in EtOH (95%, 3.1 mL) and conc. HCl (0.48 mL) in a Parr hydrogenation flask was added PtO2 (57 mg, 0.251 mmol) and the mixture hydrogenated at 50 psi H2 for 40 h. The mixture was filtered through celite, the cake washed with MeOH and the solvent was removed from the eluent under reduced pressure. The resultant yellow solid was dissolved in 1 N NaOH (30 mL) and extracted with ether (4×50 mL). The combined organic phases were dried (Na2SO4), filtered and concentrated under reduced pressure to give crude 1-(hydroxymethyl)-4-(piperidin-2-yl)-benzene (0.98 g) as white solid. To a solution of the solid in THF (25 mL), triethylamine (10 drops) and water (10 drops) was added di-tert-butyl dicarbonate (1.51 g, 6.92 mmol) and the reaction stirred at room temperature for 20 h. The mixture was concentrated under reduced pressure and the residue taken up in CH2Cl2 (100 mL) and washed with brine (3×75 mL). The organic phase was dried (Na2SO4), filtered and concentrated under reduced pressure to give crude 1-(hydroxymethyl)-4-[(1-butoxycarbonyl)-piperidin-2-yl]-benzene (1.87 g) as an oil.

reactant | 4-pyridin-2-yl-benzaldehyde | 5.65 mmol, 1.036 g | N1=C(C=CC=C1)C1=CC=C(C=O)C=C1 | C12H9NO
solvent | EtOH | 3.1 mL | CCO | C2H6O
solvent | HCl | 0.48 mL | Cl | ClH
catalyst | PtO2 | 0.251 mmol, 57 mg | O=[Pt]=O
product | 1-(hydroxymethyl)-4-(piperidin-2-yl)-benzene | 0.98 g | OCC1=CC=C(C=C1)C1NCCCC1 | C12H17NO
